US07781454B2
Step 5: 3-{[8-(3-bromo-5-chlorophenoxy)-7-methylimidazo[1,5-a]pyridin-3-yl]methyl}-1H-pyrazolo[3,4-b]pyridine
To a suspension of N-{[3-(3-bromo-5-chlorophenoxy)-4-methylpyridin-2-yl]methyl}-2-(1H-pyrazolo[3,4-b]pyridin-3-yl)acetamide (77 mg, 0.158 mmol) in toluene (2 mL) was added phosphorus oxychloride (120 μL, 0.79 mmol). The resulting mixture was then heated at 100° C. for 1 hour, after which the solvent was removed in vacuo and the residue was stirred with CH2Cl2 (50 mL) and saturated aqueous Na2CO3 (30 mL) for 30 minutes. The layers were partitioned and the organic extract was dried over MgSO4, filtered and the solvent removed in vacuo. This residue was purified using RediSep column (12 g) eluting with a gradient of 0-10% MeOH/CH2Cl2. The pure fractions were combined and the solvent removed in vacuo to give the title compound. LRMS (M+1)=469.7.

reactant | N-{[3-(3-bromo-5-chlorophenoxy)-4-methylpyridin-2-yl]methyl}-2-(1H-pyrazolo[3,4-b]pyridin-3-yl)acetamide | 0.158 mmol, 77 mg | BrC=1C=C(OC=2C(=NC=CC2C)CNC(CC2=NNC3=NC=CC=C32)=O)C=C(C1)Cl | C21H17BrClN5O2
reactant | phosphorus oxychloride | 0.79 mmol, 120 μL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 3-{[8-(3-bromo-5-chlorophenoxy)-7-methylimidazo[1,5-a]pyridin-3-yl]methyl}-1H-pyrazolo[3,4-b]pyridine | BrC=1C=C(OC=2C=3N(C=CC2C)C(=NC3)CC3=NNC2=NC=CC=C23)C=C(C1)Cl | C21H15BrClN5O
